US06458814B1
b) Ethyl (±)-4-(4-methoxycarbonyl-1,3-oxazolin-2-yl)-3-phenylbutanoate
A solution of (±)-N-(4-ethoxycarbonyl-3-phenylbutanoyl) serine methyl ester (723 mg, 2.14 mmole) and Burgess reagent (613 mg, 2.57 mmole) in dry THF (10 mL) was heated at reflux under N2. After 2 hr, the mixture was cooled to RT and concentrated under reduced pressure. The residue was chromatographed on silica gel (50% EtOAc/hexanes) to give the title compound (420 mg, 61%) as a colorless oil: MS (ES) m/e 320 (M+H)+.

reactant | (±)-N-(4-ethoxycarbonyl-3-phenylbutanoyl) serine methyl ester | 2.14 mmole, 723 mg | COC([C@@H](NC(CC(CC(=O)OCC)C1=CC=CC=C1)=O)CO)=O | C17H23NO6
reactant | Burgess reagent | 2.57 mmole, 613 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl (±)-4-(4-methoxycarbonyl-1,3-oxazolin-2-yl)-3-phenylbutanoate | 420 mg, 61% | COC(=O)C1N=C(OC1)CC(CC(=O)OCC)C1=CC=CC=C1 | C17H21NO5
